US08664401B2
4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide, which may be prepared as in Preparation 2A (320 mg, 0.640 mmol), 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propan-1-ol (202 mg, 0.770 mmol) (See Takashima, H. et. al. WO 2008105515), potassium carbonate (448 mg, 3.20 mmol), and tris(dibenzylideneacetone)dipalladium(0) (56.8 mg, 0.064 mmol) were combined into a flask, placed under vacuum and opened to nitrogen. Degassed dimethoxyethane (2.0 mL) and methanol (2.0 mL) were added and the reaction was heated at 80° C. under nitrogen for 16 hours. The reaction was cooled and then diluted with ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and the combined organics were dried over magnesium sulfate, filtered and evaporated in vacuo onto silica gel. Chromatography on silica gel with a dichloromethane-methanol gradient (1%-25%) gave 4-{4-[4-(3-hydroxypropyl)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide as a white foam (213.3 mg, 65.6%). LCMS 507.5 (M+1).

reactant | 4-(4-iodo-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | IC1=CC(N(C=C1)CCC(C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C16H23IN2O6S
reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propan-1-ol | 0.770 mmol, 202 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCCO)C | C15H23BO3
reactant | potassium carbonate | 3.20 mmol, 448 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 2.0 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.064 mmol, 56.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | 2.0 mL | CO | CH4O
product | 4-{4-[4-(3-hydroxypropyl)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 213.3 mg, 65.6% | OCCCC1=CC=C(C=C1)C1=CC(N(C=C1)CCC(C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C25H34N2O7S
